US07145011B2
Synthesis of 7,9-dichloro-3a,4,5,9b-tetrahydro-3H-cyclopenta[c]quinoline-4-carboxylic acid
1.14 g of 3,5-dichloroaniline (10 mmol), 0.97 g of glyoxylic acid hydrate (15 mmol) and 1.40 g of cyclopentadiene (freshly distilled) (30 mmol) were dissolved in 20 ml of acetonitrile in a closable Teflon vessel and heated to 50° C. within one minute in a microwave oven with a power of 800 watts and kept at this temperature for five minutes with further microwave irradiation. The vessel was then placed in ice water, cautiously opened and evaporated in a rotary evaporator. The mass of crystals obtained was washed with hexane and dried. A colourless mass of crystals was obtained in a quantity of 1.95 g (98% of theoretical).

reactant | 3,5-dichloroaniline | 10 mmol, 1.14 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | glyoxylic acid hydrate | 15 mmol, 0.97 g | O.C(C=O)(=O)O
reactant | cyclopentadiene | 1.40 g | C1=CC=CC1 | C5H6
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 7,9-dichloro-3a,4,5,9b-tetrahydro-3H-cyclopenta[c]quinoline-4-carboxylic acid | ClC=1C=C(C=2C3C(C(NC2C1)C(=O)O)CC=C3)Cl | C13H11Cl2NO2
